US07994185B2
Step C: N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-piperidinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide
To a solution of 1,1-dimethylethyl 4-[4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate (115 mg, 0.192 mmol) in dichloromethane (2 mL) was added TFA (0.015 mL, 0.192 mmol), and the reaction mixture was stirred for 1 h. The reaction mixture was concentrated and the residue was purified using RP-HPLC. The TFA salt was neutralized to give 62 mg of the title compound. MS (ESI): 500.3 [M+1]+.

reactant | 1,1-dimethylethyl 4-[4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate | 0.192 mmol, 115 mg | FC1=C(C=CC=C1NS(=O)(=O)C1=COC=C1)C=1N=C(SC1C1=NC(=NC=C1)C)C1CCN(CC1)C(=O)OC(C)(C)C | C28H30FN5O5S2
reactant | TFA | 0.192 mmol, 0.015 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(4-piperidinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | 62 mg | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)C)C1CCNCC1)NS(=O)(=O)C1=COC=C1 | C23H22FN5O3S2
